US08466186B2
(a) 4-Chloro-5-(4-methyl-piperazin-1-yl)-2-nitro-N-methyl-aniline
The sub-title compound was prepared from N-methylpiperazine (200 mg, 2.0 mmol), 4,5-dichloro-N-methyl-2-nitroaniline (442 mg, 2.0 mmol) and potassium carbonate (304 mg, 2.2 mmol) in DMF (10 mL) in accordance to example 9 step (d).

reactant | N-methylpiperazine | 2.0 mmol, 200 mg | CN1CCNCC1 | C5H12N2
reactant | 4,5-dichloro-N-methyl-2-nitroaniline | 2.0 mmol, 442 mg | ClC1=CC(=C(NC)C=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
reactant | potassium carbonate | 2.2 mmol, 304 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-5-(4-methyl-piperazin-1-yl)-2-nitro-N-methyl-aniline | ClC1=CC(=C(NC)C=C1N1CCN(CC1)C)[N+](=O)[O-] | C12H17ClN4O2
